US08034812B2
Production of 5-amino-2-bromophenol
4-Bromo-3-methoxyaniline (5.0 g, 25 mmol) was added to 48% hydrobromic acid (20 mL), and the reaction mixture was stirred at 80° C. for 16 hr. After completion of the reaction, the mixture was allowed to cool to room temperature, and adjusted to pH 7-8 by adding 8N aqueous sodium hydroxide solution. The mixture was extracted with ethyl acetate, and the obtained organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→100/0) to give the title compound (2.0 g, 43%) as a white powder.

reactant | 4-Bromo-3-methoxyaniline | 25 mmol, 5.0 g | BrC1=C(C=C(N)C=C1)OC | C7H8BrNO
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | hydrobromic acid | 20 mL | Br | BrH
product | 5-amino-2-bromophenol | 2.0 g, 43% | NC=1C=CC(=C(C1)O)Br | C6H6BrNO
